US07501424B2
Preparation of 4-methyl-N-[3-(2-methylimidazol-1-yl)-5-trifluoromethyl-phenyl]-3[4-(4-methylimidazol-1-yl)-pyrimidin-2-ylamino]-benzamide
4-methyl-3-[4-(4-methylimidazol-1-yl)pyrimidin-2-yl-amino]benzoic acid and 3-(2-methylimidazol-1-yl)-5-trifluoromethyl-phenylamine prepared in Preparation 31 were used according to the similar procedure to Example 1 to give the titled compound as yellow solid.

reactant | 4-methyl-3-[4-(4-methylimidazol-1-yl)pyrimidin-2-yl-amino]benzoic acid | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)N1C=NC(=C1)C | C16H15N5O2
reactant | 3-(2-methylimidazol-1-yl)-5-trifluoromethyl-phenylamine | CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)N | C11H10F3N3
product | 4-methyl-N-[3-(2-methylimidazol-1-yl)-5-trifluoromethyl-phenyl]-3[4-(4-methylimidazol-1-yl)-pyrimidin-2-ylamino]-benzamide | CC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C(=NC=C2)C)C=C1)NC1=NC=CC(=N1)N1C=NC(=C1)C | C27H23F3N8O
